US06548495B2
8-Pyrrol-1-yl-4-(3-[1,2,3]triazol-1-yl-phenyl)-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from {2-[3-oxo-3-(3-[1,2,3]triazol-1-yl-phenyl)-propionylamino]-4-pyrrol-1-yl-phenyl}-carbamic acid tert.-butyl ester (Example M20) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a light yellow solid (36 mg).

reactant | {2-[3-oxo-3-(3-[1,2,3]triazol-1-yl-phenyl)-propionylamino]-4-pyrrol-1-yl-phenyl}-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)N1C=CC=C1)NC(CC(C1=CC(=CC=C1)N1N=NC=C1)=O)=O)=O | C26H26N6O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 8-Pyrrol-1-yl-4-(3-[1,2,3]triazol-1-yl-phenyl)-1,3-dihydro-benzo[b][1,4]diazepin-2-one | N1(C=CC=C1)C=1C=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)N2N=NC=C2)=O)C1 | C21H16N6O
